US06627771B1
Borane dimethyl sulfide complex (3.5 mL, 10.0 M in THF) is added to a solution of 2-cyclopentyl-succinic acid 4-tert-butyl ester 1-methyl ester (8.6 g, 35.5 mmol) in 100 mL of THF at 0° C. The mixture is warmed to room temperature overnight, cooled to 0° C., and treated with 50 mL of MeOH. After being warmed to room temperature over 1 hour, the solvents are evaporated, and the oil is dried at room temperature under vacuum for 12 hours. It is taken up in 100 mL of THF containing 0.1 g of pTsOH, and the solution is warmed to reflux for 12 hours. The THF is evaporated under reduced pressure, and remaining oil is taken up in 100 mL of Et2O. The Et2O solution is washed with 2.0N NaOH (3×50 mL) and 50 mL of brine. Drying over MgSO4 followed by evaporation of the solvent gives 4.4 g (80% yield) of 4-cyclopentyl-dihydro-furan-2-one as an oil. NMR (1H, 400 MHz, CDCl3) δ1.1 (2H, m); 1.3-1.8 (7H, m); 2.2 (1H, dd); 1.4 (1H, m); 1.6 (1H, dd); 3.9 (1H, dd); 4.4 (1H, dd).

reactant | Borane dimethyl sulfide | 10.0 M, 3.5 mL | CSC.B
reactant | 2-cyclopentyl-succinic acid 4-tert-butyl ester 1-methyl ester | 35.5 mmol, 8.6 g | COC(C(CC(=O)OC(C)(C)C)C1CCCC1)=O | C14H24O4
reactant | MeOH | 50 mL | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-cyclopentyl-dihydro-furan-2-one | 4.4 g, 80% yield | C1(CCCC1)C1CC(OC1)=O | C9H14O2
